US04362740
5-Piperidinosulfonylspiro[benzo[b]thiophene-2(3H),1'-cyclopropan]-3-one was prepared by a similar procedure to that of Example 8 except for the use of 5-piperidinosulfonyl 4',5'-dihydrospiro[benzo[b]thiophene-2(3H),3'(2'H)-furan]-3,2'-dione obtained in Reference Example 17. Colorless prisms (from C2H5OH), mp 155.5°-157° C. Anal. Calcd. for C15H17NO3S: C, 55.70; H, 5.30; N, 4.33. Found: C, 55.74; H, 5.34; N, 4.50.

reactant | 5-piperidinosulfonyl 4',5'-dihydrospiro[benzo[b]thiophene-2(3H),3'(2'H)-furan]-3,2'-dione | N1(CCCCC1)S(=O)(=O)C1=CC2=C(SC3(C(OCC3)=O)C2=O)C=C1 | C16H17NO5S2
solvent | C2H5OH | C(C)O | C2H6O
product | 5-Piperidinosulfonylspiro[benzo[b]thiophene-2(3H),1'-cyclopropan]-3-one | N1(CCCCC1)S(=O)(=O)C1=CC2=C(SC3(CC3)C2=O)C=C1 | C15H17NO3S2
